US04667052
Preparation of 1,2-bis-(ethoxycarbonyl)ethyl 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate.
To a stirred solution of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride (3.8 g, 0.01 mole) in acetone (10 ml) was successively added diethyl DL malate (1.9 g, 0.01 mole) in acetone (10 ml) and triethylamine (1.01 g, 0.01 mole) in acetone (5 ml). A white precipitate quickly formed. The reaction was heated to reflux for 24 hours. Upon cooling, the reaction was poured in water (75 ml) and extracted twice with methylene chloride (25 ml @). The combined organic extracts were successively washed with 5% sodium hydroxide and brine solutions. The dried solution was stripped of solvent to give 3.56 g of an amber oil.

reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride | 0.01 mole, 3.8 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
reactant | diethyl DL malate | 0.01 mole, 1.9 g | C(C(O)CC(=O)OCC)(=O)OCC | C8H14O5
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 75 ml | O | H2O
product | 1,2-bis-(ethoxycarbonyl)ethyl 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate | 3.56 g | ClC1=C(OC=2C=CC(=C(C(=O)OC(CC(=O)OCC)C(=O)OCC)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C22H19ClF3NO9
